US06734205B2
A mixture of sodium methoxide (4.28 g, 79.2 mmol), guanidine hydrochloride (7.58 g, 79.3 mmol) and N,N-dimethylformamide (70 ml) was stirred at room temperature for 1 hour, and then the insoluble material was filtered off. A solution of 2-ethoxycarbonyl-1,4-dimethyl-1H-indole-5-yl hydrogen sulfate pyridine salt (3.11 g, 7.92 mmol) in N,N-dimethylformamide (10 ml) was added to the filtrate, and the resulting mixture was stirred at room temperature for 7.5 hours. Water was added to the reaction mixture, followed by washing with chloroform. Subsequently, chloroform and then 2N hydrochloric acid were added and the solid thus precipitated was collected by filtration and washed with methanol to obtain 2.12 g of 2-[[[amino(imino)-methyl]amino]carbonyl]-1,4-dimethyl-1H-indol-5-yl hydrogen sulfate.

reactant | sodium methoxide | 79.2 mmol, 4.28 g | C[O-].[Na+]
reactant | guanidine hydrochloride | 79.3 mmol, 7.58 g | Cl.NC(=N)N
reactant | 2-ethoxycarbonyl-1,4-dimethyl-1H-indole-5-yl hydrogen sulfate pyridine salt | 7.92 mmol, 3.11 g | N1=CC=CC=C1.S(=O)(=O)(OC=1C(=C2C=C(N(C2=CC1)C)C(=O)OCC)C)O
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 70 ml | CN(C=O)C | C3H7NO
product | 2-[[[amino(imino)-methyl]amino]carbonyl]-1,4-dimethyl-1H-indol-5-yl hydrogen sulfate | 2.12 g | S(=O)(=O)(OC=1C(=C2C=C(N(C2=CC1)C)C(=O)NC(=N)N)C)O | C12H14N4O5S
